US09108984B2
Step K: 1-{4-Chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-yl}ethanol
A solution of 1-{4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-yl}ethanone (2.3 g, 6.1 mmol) in methanol (38 mL) at 0° C. was treated with sodium borohydride (0.46 g, 12 mmol) in two portions and stirred at 0° C. for 30 minutes. The reaction mixture was quenched with water at 0° C., poured into saturated sodium bicarbonate (50 mL), and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine (50 mL), dried with sodium sulfate, filtered, and concentrated to give the desired product (quantitative). This material was used without further purification. LCMS for C20H22ClFN3O (M+H)+: m/z=374.1; Found: 373.9.

reactant | 1-{4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-yl}ethanone | 6.1 mmol, 2.3 g | ClC1=CC(=C(C(=C1C#C)\N=N\N(CC)CC)C1=CC(=CC=C1)F)C(C)=O | C20H19ClFN3O
reactant | sodium borohydride | 12 mmol, 0.46 g | [BH4-].[Na+]
solvent | methanol | 38 mL | CO | CH4O
product | 1-{4-Chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-yl}ethanol | ClC1=CC(=C(C(=C1C#C)\N=N\N(CC)CC)C1=CC(=CC=C1)F)C(C)O | C20H21ClFN3O
